US06610700B2
2-Propyl-1,3-Cyclopentanedione
To a solution of BF3.OEt2 (1.30 g, 9.2 mmol) and butyraldehyde (0.40 g, 5.5 mmol) in DCM (5 ml) under N2 at −78° was added a solution of 1,2-bis trimethylsilyloxycyclobutene (1.4 g, 6.1 mmol) in DCM (3 ml) maintaining a temperature of less than −70°. After 2 h at −78° the solution was poured into saturated NaHCO3, extracted into EtOAc, washed (brine), dried (MgSO4) and the solution concentrated in vacuo to yield a clear liquid. To this liquid was added TFA (20 ml) and the solution heated at reflux for 24 h. The solution was concentrated in vacuo and the residue purified by chromatography (SiO2, 50:50 EtOAc/hexane) to yield the title compound as an off-white solid (140 mg, 18%). δH (CD3OD) 2.46 (4H, s), 2.07 (2H, t, J 7.5 Hz), 1.40 (2H, m), 0.86 (3H, t, J 7.4 Hz). m/z (ESI, 70V) 141 (MH+).

reactant | BF3.OEt2 | 9.2 mmol, 1.30 g | B(F)(F)F.CCOCC
reactant | butyraldehyde | 5.5 mmol, 0.40 g | C(CCC)=O | C4H8O
reactant | 1,2-bis trimethylsilyloxycyclobutene | 6.1 mmol, 1.4 g | C[Si](OC1=C(CC1)O[Si](C)(C)C)(C)C | C10H22O2Si2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | TFA | 20 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | 2-Propyl-1,3-Cyclopentanedione | 140 mg, 18% | C(CC)C1C(CCC1=O)=O | C8H12O2
